US06642318B1
Preparation of N,N-Diethyl S-Benzyl Dithiocarbamate (67)
Benzyl bromide (2.05 g, 12 mmol) in THF (10 mL) was added dropwise over 15 minutes to a supension of sodium N,N-diethyldithiocarbamate trihydrate (2.25 g, 10 mmol) in 25 mL of THF at room temperature. The solution was allowed to stir at room temperature for 3 hours when the solids were filtered off and the filtrate concentrated. The crude residue was purified by column chromatography (silica gel, 20% ethyl acetate in petroleum spirits) to obtain the title compound (2.25 g, 94%). 1H-nmr (CDCl3) δ 1.3 (6H), 3.7 (2H), 4.1 (2H), 4.6 (2H), 7.3 (5H).

reactant | Benzyl bromide | 12 mmol, 2.05 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium N,N-diethyldithiocarbamate trihydrate | 10 mmol, 2.25 g | O.O.O.C(C)N(C([S-])=S)CC.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N,N-Diethyl S-Benzyl Dithiocarbamate | 2.25 g, 94% | CCN(CC)C(=S)SCC1=CC=CC=C1 | C12H17NS2
